US07781443B2
(2R,4S)-4-{[5-(4-Acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis-(trifluoromethyl)benzyl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg), a catalytic amount of tetrakis(triphenylphosphine)palladium, zinc cyanide (37 mg) are dissolved in N,N-dimethylformamide (2 ml), and the mixture is stirred at 100° C. for 6 hours under nitrogen flow. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate. The mixture is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=3:7→0:1) to give (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis(trifluoromethyl)benzyl]}amino-6-cyano-2-ethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (149 mg). MS (m/z): 705 [M+H]+.

reactant | (2R,4S)-4-{[5-(4-Acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis-(trifluoromethyl)benzyl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NC=C(C=N1)N1CCN(CC1)C(C)=O)CC | C33H34F9N7O6S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 37 mg | [C-]#N.[Zn+2].[C-]#N
product | (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis(trifluoromethyl)benzyl]}amino-6-cyano-2-ethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 149 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C#N)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NC=C(C=N1)N1CCN(CC1)C(C)=O)CC | C33H34F6N8O3
